US07217724B2
To a solution of 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxy-ethylamino]propyl}-1H-indole-6-carboxylic acid diethylamide (800 mg, 1.87 mmol) in 1,4-dioxane (10 ml) is added 6N—HCl (10 ml), and the mixture is refluxed for 24 hours. After allowed to cool, the reaction solution is concentrated under reduced pressure, and the residue is purified by octadecylsilyl column chromatography (trifluoroacetic acid/methanol/water), and further crystallized from aqueous methanol (pH 7) to give 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethylamino]-propyl}-1H-indole-6-carboxylic acid (304 mg, 0.815 mmol, 44%) as white crystals.

reactant | 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxy-ethylamino]propyl}-1H-indole-6-carboxylic acid diethylamide | 1.87 mmol, 800 mg | C(C)N(C(=O)C1=CC=C2C(=CNC2=C1)C[C@@H](C)NC[C@H](O)C1=CC(=CC=C1)Cl)CC | C24H30ClN3O2
reactant | HCl | 10 ml | Cl | ClH
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethylamino]-propyl}-1H-indole-6-carboxylic acid | 0.815 mmol, 304 mg, 44% | ClC=1C=C(C=CC1)[C@H](CN[C@@H](CC1=CNC2=CC(=CC=C12)C(=O)O)C)O | C20H21ClN2O3
